US06982348B2
2) 4-neopentylbenzyl alcohol
To a suspension of lithium aluminum hydride (1.13 g, 29.9 mmol) in tetrahydrofuran (50 ml) was added dropwise a solution of 4-neopentylbenzoic acid (3.830 g, 19.92 mmol) in tetrahydrofuran (30 ml) under ice-cooling, and the mixture was stirred overnight at room temperature. After ice-cooling the reaction solution, water (1 ml), a 15% aqueous sodium hydroxide solution (1 ml) and water (2.5 ml) were successively added dropwise to decompose excess lithium aluminum hydride. The mixture was stirred as it was at room temperature for 2 hrs. The resulting precipitate was removed by filtration, and the precipitate was washed with ethyl acetate. The solvent of the recovered filtrate was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=6/1−3/1) to give the objective substance.

reactant | lithium aluminum hydride | 29.9 mmol, 1.13 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-neopentylbenzoic acid | 19.92 mmol, 3.830 g | C(C(C)(C)C)C1=CC=C(C(=O)O)C=C1 | C12H16O2
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | water | 2.5 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-neopentylbenzyl alcohol | C(C(C)(C)C)C1=CC=C(CO)C=C1 | C12H18O
